US05270302
a. 2-Cyano-3-(3-indolyl)propionic acid
Ethyl 2-cyano-3-(3-indolyl)propionate (350 mg, 1.45 mmol) (S. Masanori, et al., Heterocycles, 1981, 16: 941-9) was dissolved in ethanol (6 mL). 2N Sodium hydroxide solution (4 mL) was added and the reaction mixture was stirred at ambient temperature for 20 hours. Water (10 mL) was added and the ethanol was removed under reduced pressure. The pH of the aqueous solution was adjusted to approximately 1 with 6N hydrochloric acid solution and it was extracted with ethyl acetate. The ethyl acetate solution was concentrated in vacuo to give the title compound which was carried on to the next step without purification.

reactant | Ethyl 2-cyano-3-(3-indolyl)propionate | 1.45 mmol, 350 mg | C(#N)C(C(=O)OCC)CC1=CNC2=CC=CC=C12 | C14H14N2O2
reactant | Sodium hydroxide | 2N, 4 mL | [OH-].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 2-Cyano-3-(3-indolyl)propionic acid | C(#N)C(C(=O)O)CC1=CNC2=CC=CC=C12 | C12H10N2O2
